US05273999
Preparation of 6-[(5-Bromopentyl)oxy]-2,5-quinolinedipropanoic Acid Diethyl Ester
A mixture of 0.866 g (2.51 mmol) of 6-hydroxy-2,5quinolinedipropanoic acid ethyl ester from the preceding example, 2.33 g (10.1 mmol) of 1,5-dibromopentane, 1.75 g (12.7 mmol) of anhydrous granular potassium carbonate and 25 mL of 2-butanone was stirred at 90° C. for 8.25 hr and at room temperature for another 37 hr. The mixture was filtered through anhydrous magnesium sulfate and the solids were washed with ethyl acetate. The filtrate and washes were combined and concentrated under reduced pressure. The residue was dissolved in 200 mL of ethanol, 1.21 g (6.36 mmol) of p-toluenesulfonic acid monohydrate was added and the resulting solution was stirred at room temperature for 22 hr. Most the ethanol was removed under reduced pressure. The residue was treated with saturated aqueous sodium bicarbonate and worked-up with ethyl acetate in the usual manner. The crude product was partially purified by flash chromatography on 110 g of silica gel, eluting with hexane-ethyl acetate (3:1 and 2:1) giving 1.03 g of the title compound.

reactant | 6-hydroxy-2,5quinolinedipropanoic acid ethyl ester | 2.51 mmol, 0.866 g | C(C)OC(CCC1=NC=2C=CC(=C(C2C=C1)CCC(=O)O)O)=O | C17H19NO5
reactant | 1,5-dibromopentane | 10.1 mmol, 2.33 g | BrCCCCCBr | C5H10Br2
reactant | potassium carbonate | 12.7 mmol, 1.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-toluenesulfonic acid monohydrate | 6.36 mmol, 1.21 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | 2-butanone | 25 mL | CC(CC)=O | C4H8O
product | 6-[(5-Bromopentyl)oxy]-2,5-quinolinedipropanoic Acid Diethyl Ester | 1.03 g | C(C)OC(CCC1=NC=2C=CC(=C(C2C=C1)CCC(=O)OCC)OCCCCCBr)=O | C24H32BrNO5
